US06822097B1
7-[(1-Hydroxymethyl-2-methyl-propylamino)-methyl]-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and 2-amino-3-methyl-butan-1-ol to give a yellow solid. MS m/z: 421.3 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | 2-amino-3-methyl-butan-1-ol | NC(CO)C(C)C | C5H13NO
product | 7-[(1-Hydroxymethyl-2-methyl-propylamino)-methyl]-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | OCC(C(C)C)NCC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1 | C23H24N4O2S
